US07714010B2
b) 2-[(E)-2-(3-Dimethylamino-phenyl)-vinyl]-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
To a solution 2-[(E)-2-(3-amino-phenyl)-vinyl]-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (170 mg) in dry THF (2.5 ml) and acetic acid (0.3 ml) is added p-formaldehyde (41.5 mg; 1,31 mmol) and resin-bound cyanoborohydride (MP-cyanoborohydride; Argonaut) (1.23 g; 2.50 mmol). The mixture is gently stirred under an inert atmosphere (Ar) at RT for 48 h. After completion of the reaction the mixture is filtered and concentrated in vacuo. The desired compound (43.0 mg) is obtained by preparative RP-HPLC.

reactant | 2-[(E)-2-(3-amino-phenyl)-vinyl]-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 170 mg | NC=1C=C(C=CC1)/C=C/C1=NC=2C(=CC=3C(C(N(C3C2)CCCCC)=O)(C)C)N1 | C24H28N4O
reactant | cyanoborohydride | 2.50 mmol, 1.23 g | C(#N)[BH3-]
reactant | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
product | 2-[(E)-2-(3-Dimethylamino-phenyl)-vinyl]-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 43.0 mg | CN(C=1C=C(C=CC1)/C=C/C1=NC=2C(=CC=3C(C(N(C3C2)CCCCC)=O)(C)C)N1)C | C26H32N4O
